US06992087B2
Preparation of 6-ethyl-6,7-dihydro-5H-cyclopenta[b]pyridin-7-amine
Following the procedure for the preparation of 6,7-dihydro-5H-cyclopenta[b]pyridin-5-amine but substituting (7Z)-6-ethyl-5,6-dihydro-7H-cyclopenta[b]pyridin-7-one oxime and making non-critical variations provided the title compound as a oil: 1H NMR (400 MHz, CDCl3) δ) 8.40, 7.51, 7.10, 4.30, 3.95, 3.07, 2.95, 2.74, 2.50, 2.38, 2.03-1.93, 1.75, 1.57, 1.40, 1.09-0.97; HRMS (FAB) calcd for C10H14N2+H 163.1235, found 163.1229.

reactant | 6,7-dihydro-5H-cyclopenta[b]pyridin-5-amine | N1=C2C(=CC=C1)C(CC2)N | C8H10N2
reactant | (7Z)-6-ethyl-5,6-dihydro-7H-cyclopenta[b]pyridin-7-one oxime | C(C)C/1CC=2C(=NC=CC2)\C1=N/O | C10H12N2O
product | 6-ethyl-6,7-dihydro-5H-cyclopenta[b]pyridin-7-amine | C(C)C1CC=2C(=NC=CC2)C1N | C10H14N2
